US05958918
A. 3-[(1,1-Dimethylethyl)dimethylsilyl]oxytoluene
To a solution of 3-hydroxytoluene (2 g, 8.5 mmol) in 20 mL of CH2Cl2 is added DBU (3.32 mL, 22.2 mmol) and 1,1-dimethylethyl)dimethylsilyl chloride (3.07 g, 20.34 mmol). After 1.5 hours, the solution is diluted with EtOAc. The organic solution is washed with 1 N HCl, 10% Na2CO3 and saturated NaCl. The organic layer is dried over MgSO4, filtered, and concentrated. The crude product is purified by column chromatography eluting with 5% EtOAc/hexanes to afford the title compound (4.1 g, 18.5 mmol) as an oil.

reactant | 3-hydroxytoluene | 8.5 mmol, 2 g | OC=1C=C(C=CC1)C | C7H8O
reactant | DBU | 22.2 mmol, 3.32 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | dimethylsilyl chloride | 20.34 mmol, 3.07 g | C[SiH](C)Cl | C2H7ClSi
reactant | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[(1,1-Dimethylethyl)dimethylsilyl]oxytoluene | 18.5 mmol, 4.1 g | CC(C)(C)[Si](OC=1C=C(C=CC1)C)(C)C | C13H22OSi
